US06380218B1
5-(1-Hydroxy-1-methyl-ethyl)-furan-2-carboxylic acid methyl ester
To a solution of diisopropylamine (7.6 ml, 54.0 mmole) in tetrahydrofuran (20 ml) at 0° C. was added 2.5 M nButyl lithium (22 ml, 54.0 mmole). The mixture was cooled to −78° C. and a solution of Furan-2-carboxylic acid (3.0 grams, 27.0 mmole) in tetrahydrofuran (20 ml) was added dropwise and stirred for 20 minutes and acetone (2.4 ml, 32.0 mmole) was added. The mixture was stirred at −78° C. for 10 minutes and allowed to warm to room temperature over 1 hour. The mixture was poured into 200 ml water, acidified with oxalic acid to pH 2 and extracted with diethyl ether. The combined extracts were washed with water and brine, dried over MgSO4, filtered, and concentrated to give a solid. (0.580 g). MW 145.22; MS (m/e) 146 (M++1).

reactant | diisopropylamine | 54.0 mmole, 7.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | lithium | 54.0 mmole, 2.5 M, 22 ml | [Li] | Li
reactant | Furan-2-carboxylic acid | 27.0 mmole, 3.0 grams | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | acetone | 32.0 mmole, 2.4 ml | CC(=O)C | C3H6O
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 5-(1-Hydroxy-1-methyl-ethyl)-furan-2-carboxylic acid methyl ester | COC(=O)C=1OC(=CC1)C(C)(C)O | C9H12O4
